US05736523
(trans)-1-acetamido-5,8-dioxo-3-ethyl-5,8-dihydro-isochroman
To a solution of 5,8-dimethoxy-3-ethyl-isochroman (1.0 g; 4.5 mmol) in dichloromethane (30 ml) at room temperature were added methanol (211 μl 5.4 mmol), 4 Å molecular sieves (2 g) and 2,3-dichloro-5,6-dicyanobenzoquinone (1.21 g; 5.4 mmol). The resulting dark mixture was stirred for 5 hours and was then quenched with saturated NaHCO3 solution. It was extracted with dichloromethane and the combined organic layers were washed with bicarbonate, brine and then dried over Na2SO4 affording after evaporation 1.0 g of crude adduct of which 300 mg (1.19 mmol assumed) were placed in a pear-shaped flask along with acetamide (70 mg; 1.19 mmol). The solid mixture was then heated to 130° C. for 30 minutes. It was then cooled to room temperature and dichloromethane was added followed by pentane yielding a precipitate (160 mg) of which 120 mg (0.43 mmol assumed) was dissolved in acetonitrile (15 ml) and treated with a solution of CAN prepared by slowly dissolving sodium bicarbonate (384 mg) in water (5 ml) containing cerium ammonium nitrate (1.46 g; 2.5 mmol). The resulting mixture was stirred at room temperature for 15 minutes and was quenched with saturated NaHCO3 solution followed by extraction with dichloromethane. The combined organic extracts were washed with brine and dried over Na2SO4 to afford the titled compound as a yellow solid (125 mg; 42% overall).

reactant | 5,8-dimethoxy-3-ethyl-isochroman | 4.5 mmol, 1.0 g | COC1=C2CC(OCC2=C(C=C1)OC)CC | C13H18O3
reactant | methanol | 5.4 mmol, 211 μl | CO | CH4O
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 5.4 mmol, 1.21 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | acetamide | 1.19 mmol, 70 mg | C(C)(=O)N | C2H5NO
reactant | CAN | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | sodium bicarbonate | 384 mg | C([O-])(O)=O.[Na+]
reactant | cerium ammonium nitrate | 2.5 mmol, 1.46 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
solvent | pentane | CCCCC | C5H12
product | (trans)-1-acetamido-5,8-dioxo-3-ethyl-5,8-dihydro-isochroman | 125 mg, 42% | C(C)(=O)N[C@@H]1O[C@H](CC=2C(C=CC(C12)=O)=O)CC | C13H15NO4
